US07897767B2
Hydrazine hydrate (9 mL) was added to a suspension of 2-{[4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methoxy}isoindole-1,3-dione (3.9 g) in ethanol (90 mL). The resulting solution was stirred at ambient temperature for 3 hours. The reaction mixture was filtered to remove a precipitate and the filter cake was washed with ethanol and dichloromethane. The filtrate was concentrated under reduced pressure, diluted with aqueous 1N hydrochloric acid (100 mL), and then washed sequentially with dichloromethane (2×50 mL) and ethyl acetate (1×50 mL). Analysis of the organic washes by LCMS indicated that they did not contain product. The aqueous acidic layer was made basic (˜pH 9) with solid sodium carbonate and then extracted sequentially with dichloromethane (1×100 mL), ethyl acetate (1×100 mL), and dichloromethane (1×100 mL). The combined organic extracts were dried over magnesium sulfate, filtered and then concentrated under reduced pressure to provide 2.07 g of O-{[4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl}hydroxylamine as a tan foam.

reactant | Hydrazine hydrate | 9 mL | O.NN
reactant | 2-{[4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methoxy}isoindole-1,3-dione | 3.9 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)C)CON2C(C1=CC=CC=C1C2=O)=O | C23H21N5O3
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | O-{[4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl}hydroxylamine | 2.07 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)C)CON | C15H19N5O
